US04007223
750 g of p-nitrotoluene was oxidized in 2250 ml of glacial acetic acid, after the addition of 15 g of NH4Br, 4.5 g of Co(OAc)2 . 4H2O and 4.5 g of Mn(OAc)2 . 4H2O, at a reaction temperature of 175° C. The reaction product was washed and dried as before. 795 g (87% of the theory) of brown-discolored p-nitrobenzoic acid was obtained, having a melting point of 235°-36° C. The solution of 1 g of the product in 10 g of dimethylsulfoxide has a value of 40 on the iodine color scale. After recrystallization three times from glacial acetic acid, the melting point was 237°-40° C, while the iodine number remained unchanged.

reactant | p-nitrotoluene | 750 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | NH4Br | 15 g | [NH4+].[Br-]
reactant | acetic acid | 2250 ml | C(C)(=O)O | C2H4O2
product | p-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
